US08729105B2
Preparation of 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (5-trifluoromethyl-isoxazol-3-ylmethyl)-amide
The title compound was synthesized in analogy to Example 41 using 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (example AW) and 5-trifluoromethyl-isoxazol-3-methanamine hydrochloride (example BF) as starting materials, LC-MS (UV peak area/ESI) 97.8%, 452.4 (M+H)+.

reactant | 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC1CC1 | C16H14ClNO3
reactant | 5-trifluoromethyl-isoxazol-3-methanamine hydrochloride | Cl.FC(C1=CC(=NO1)CN)(F)F
product | 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (5-trifluoromethyl-isoxazol-3-ylmethyl)-amide | FC(C1=CC(=NO1)CNC(=O)C1=NC(=C(C=C1)OCC1CC1)C1=CC=C(C=C1)Cl)(F)F | C21H17ClF3N3O3
